US03965151
Preparation of 10-chloro-2,3,5,6,7,11b-hexahydro-7-methyl-11b-phenyl-1H-imidazo[1,2-d][1,4]benzodiazepine ##SPC25##
A solution of 5.0 g. (16 mmole) of 5-chloro-2-(2-chloroethylmethylamino)benzophenone, 3.0 g. (50 mmole) of ethylenediamine, 50 ml. of triethylamine and 250 ml. of ethanol was stirred at reflux for 48 hours. The solvents were removed by evaporation and the residue containing starting material and the product was washed with water, chromatographed over Florisil, and recrystallized from petroleum ether to give the above-titled product as yellow prisms, m.p. 100°-102°.

reactant | 5-chloro-2-(2-chloroethylmethylamino)benzophenone | 16 mmole | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N(C)CCCl | C16H15Cl2NO
reactant | ethylenediamine | 50 mmole | C(CN)N | C2H8N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 10-chloro-2,3,5,6,7,11b-hexahydro-7-methyl-11b-phenyl-1H-imidazo[1,2-d][1,4]benzodiazepine | ClC=1C=CC2=C(C3(N(CCN2C)CCN3)C3=CC=CC=C3)C1 | C18H20ClN3
